US05594021
N-(4-bromo-3-methyl-5-isoxazolyl)-2-i-propylbenzo[b]thiophene-3-sulfonamide was prepared by the method of Example 41 using 4-bromo-3-methyl-5-aminoisoxazole (0.55 mmoles, 9.7 mg), NaH (1.4 mmoles, 5.5 mg), 2-i-propylbenzo[b]thiophene-3-sulfonyl chloride (0.60 mmoles, 0.17 g) and THF (2 ml). Recrystallization from chloroform and hexanes provided 89 mg (39%) of a tan crystalline solid, m.p. 157.5°-159° C.

reactant | 4-bromo-3-methyl-5-aminoisoxazole | 0.55 mmoles, 9.7 mg | BrC=1C(=NOC1N)C | C4H5BrN2O
reactant | NaH | 1.4 mmoles, 5.5 mg | [H-].[Na+]
reactant | 2-i-propylbenzo[b]thiophene-3-sulfonyl chloride | 0.60 mmoles, 0.17 g | C(C)(C)C1=C(C2=C(S1)C=CC=C2)S(=O)(=O)Cl | C11H11ClO2S2
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | N-(4-bromo-3-methyl-5-isoxazolyl)-2-i-propylbenzo[b]thiophene-3-sulfonamide | BrC=1C(=NOC1NS(=O)(=O)C=1C2=C(SC1C(C)C)C=CC=C2)C | C15H15BrN2O3S2
